US20010012571A1
Sulfuric acid was poured into a solution of 1,3,5-tribromobenzene in chloroform, then, to this was added nitric acid and the mixture was heated for 5 hours at 50° C. After completion of the reaction, the organic layer was neutralized with a 5% aqueous potassium carbonate solution, then washed with water, and dried over magnesium sulfate. The solvent was removed to obtain a white solid which was re-crystallized from ethanol, to give 2,4,6-tribromonitrobenzene.

reactant | Sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 1,3,5-tribromobenzene | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,4,6-tribromonitrobenzene | BrC1=C(C(=CC(=C1)Br)Br)[N+](=O)[O-] | C6H2Br3NO2
